US07396844B1
Synthesis of t-butyl 4-(4-methoxycarbonylbenzoyl)piperazine-1-carboxylate
4.93 g (26.5 mmol) of t-butyl piperazine-1-carboxylate and 4.8 ml (34.5 mmol) of triethylamine were stirred in 50 ml of dimethylformamide under cooling with ice. 5.25 g (26.5 mmol) of monomethyl terephthalate chloride was slowly added to the resultant mixture, and they were stirred for 16 hours. The temperature was elevated to room temperature, and the reaction liquid was diluted with 1 N hydrochloric acid. After the extraction with ethyl acetate followed by the treatment in an ordinary manner, the title compound was obtained.

reactant | t-butyl piperazine-1-carboxylate | 26.5 mmol, 4.93 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | triethylamine | 34.5 mmol, 4.8 ml | C(C)N(CC)CC | C6H15N
reactant | monomethyl terephthalate chloride | 26.5 mmol, 5.25 g | [Cl-].C(C1=CC=C(C(=O)[O-])C=C1)(=O)OC
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | hydrochloric acid | 1 N | Cl | ClH
product | t-butyl 4-(4-methoxycarbonylbenzoyl)piperazine-1-carboxylate | COC(=O)C1=CC=C(C(=O)N2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C18H24N2O5
